US06309795B1
Synthesis of 4-hydroxystyrene/3-methyl-2-butenyl acrylate copolymer
The GPC analysis of the copolymer thus obtained revealed that its Mw and MwD were 10,600 and 1.82, respectively. Besides, the 1H-NMR spectrum analysis of the copolymer revealed that the copolymerization ratio of 4-hydroxystyrene to 3-methyl-2-butenyl acrylate was 54:46.

reactant | 4-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | 3-methyl-2-butenyl acrylate | C(C=C)(=O)OCC=C(C)C | C8H12O2
product | 4-hydroxystyrene 3-methyl-2-butenyl acrylate | OC1=CC=C(C=C)C=C1.C(C=C)(=O)OCC=C(C)C | InChI=1S/C8H12O2.C8H8O/c1-4-8(9)10-6-5-7(2)3;1-2-7-3-5-8(9)6-4-7/h4-5H,1,6H2,2-3H3;2-6,9H,1H2
